### PR TITLE
[Merged by Bors] - feat: proof of Gershgorin's circle theorem and some applications

### PR DESCRIPTION
**Pull request by xroblot**
Prove [Gershgorin circle theorem](https://en.wikipedia.org/wiki/Gershgorin_circle_theorem) and some applications that will be useful for the proof of Dirichlet's unit theorem #5960 

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/LinearAlgebra/Matrix/ToLinearEquiv.lean [hunk 1]
```diff
@@ -196,4 +200,39 @@ alias nondegenerate_iff_det_ne_zero ↔ Nondegenerate.det_ne_zero Nondegenerate.
 
 end Nondegenerate
 
+end LinearEquiv
+
+section Determinant
+
+open BigOperators
+
+lemma det_ne_zero_of_neg [DecidableEq n] {S : Type _} [LinearOrderedCommRing S]
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Matrix/ToLinearEquiv.lean:209]: Can you add a docstring explaining this lemma? Can you also add a variant that requires each column to have a positive sum instead of each column?

Comment (MohanadAhmed) [reply Mathlib/LinearAlgebra/Matrix/ToLinearEquiv.lean:209]: Is this theorem a special case of this one? https://en.wikipedia.org/wiki/Diagonally_dominant_matrix ?

Comment (j-loreaux) [reply Mathlib/LinearAlgebra/Matrix/ToLinearEquiv.lean:209]: Yes, it's a combination of diagonal dominance and the [Gershgorin circle theorem](https://en.wikipedia.org/wiki/Gershgorin_circle_theorem). If we don't already have the latter, I would prefer to see that instead / in addition.

Comment (xroblot) [reply Mathlib/LinearAlgebra/Matrix/ToLinearEquiv.lean:209]: > Yes, it's a combination of diagonal dominance and the [Gershgorin circle theorem](https://en.wikipedia.org/wiki/Gershgorin_circle_theorem). If we don't already have the latter, I would prefer to see that instead / in addition.

Indeed. I don't see the Gershgorin theorem anywhere in Mathlib though. I'll see if it is easy to prove. If so, I'll add it and use it to prove this lemma. If not, I'll just add a note saying that this lemma can be proved using Gershgorin theorem once somebody adds it to Mathlib.

Comment (xroblot) [reply Mathlib/LinearAlgebra/Matrix/ToLinearEquiv.lean]: Ok. Here is a new version proving Gershgorin's circle theorem and using it to deduce that strictly dominant diagonal matrices have nonzero determinant. The statement of the theorem feels a bit strange since there is no API for Eigenvalues of matrices (as far as I can tell). It should probably be changed once the API is added.

Comment (MohanadAhmed) [reply Mathlib/LinearAlgebra/Matrix/ToLinearEquiv.lean]: Nice I made an attempt here, but I was hesitant because I used `NormedField` while your theorem only required `LinearCommOrderedRing`

https://github.com/leanprover-community/mathlib4/compare/MohanadAhmed/diagonally_dominant_matrix?expand=1

File: Mathlib/LinearAlgebra/Matrix/Gershgorin.lean [hunk 2]
```diff
@@ -0,0 +1,71 @@
...
+* https://en.wikipedia.org/wiki/Gershgorin_circle_theorem
+-/
+
+open BigOperators
+
+variable {K n : Type _} [NormedField K] [Fintype n] [DecidableEq n] {A : Matrix n n K}
+
+theorem eigenvalue_mem_ball {μ : K} (hμ : Module.End.HasEigenvalue (Matrix.toLin' A) μ) :
+      ∃ k, μ ∈ Metric.closedBall (A k k) (∑ j in Finset.univ.erase k, ‖A k j‖) := by
+  by_cases hn : Nonempty n
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Matrix/Gershgorin.lean:27]:
```suggestion
  cases isEmpty_or_nonempty n
```

File: Mathlib/LinearAlgebra/Matrix/ToLinearEquiv.lean [hunk 3]
```diff
@@ -200,39 +196,4 @@ alias nondegenerate_iff_det_ne_zero ↔ Nondegenerate.det_ne_zero Nondegenerate.
 
 end Nondegenerate
 
-end LinearEquiv
-
-section Determinant
-
-open BigOperators
-
-lemma det_ne_zero_of_neg [DecidableEq n] {S : Type _} [LinearOrderedCommRing S]
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Matrix/ToLinearEquiv.lean]: This version has the nice property of working for `Int`

File: Mathlib/LinearAlgebra/Matrix/ToLinearEquiv.lean (hunk 1 above)
Comment (xroblot) [reply Mathlib/LinearAlgebra/Matrix/ToLinearEquiv.lean]: > Nice I made an attempt here, but I was hesitant because I used `NormedField` while your theorem only required `LinearCommOrderedRing`. But from your implementation it iseems it does require normed field after all

I used `LinearCommOrderedRing` in the original proof since it was the most general case I could prove. In fact, I only need the case for ℝ. As you said, the proof of Gershgorin needs `NormedField` so that it is good enough for me but we cannot get from it the original statement in full generality.

File: Mathlib/LinearAlgebra/Matrix/ToLinearEquiv.lean (hunk 3 above)
Comment (xroblot) [reply Mathlib/LinearAlgebra/Matrix/ToLinearEquiv.lean]: Well, you still can prove the result for `Int` using the new version if you first cast to reals but I agree that it is less convenient to use in this case.

File: Mathlib/LinearAlgebra/Matrix/Gershgorin.lean [hunk 4]
```diff
@@ -0,0 +1,70 @@
...
+
+theorem det_ne_zero_of_sum_row_lt_diag (h : ∀ k, ∑ j in Finset.univ.erase k, ‖A k j‖ < ‖A k k‖) :
+    A.det ≠ 0 := by
+  contrapose! h
+  suffices ∃ k, 0 ∈ Metric.closedBall (A k k) (∑ j in Finset.univ.erase k, ‖A k j‖) by
+    simp_rw [mem_closedBall_iff_norm', sub_zero] at this
+    exact this
+  refine eigenvalue_mem_ball ?_
+  rw [Module.End.HasEigenvalue,  Module.End.eigenspace_zero, ne_comm]
+  exact ne_of_lt (LinearMap.bot_lt_ker_of_det_eq_zero (by rwa [LinearMap.det_toLin']))
```
Comment (ericrbg) [inline Mathlib/LinearAlgebra/Matrix/Gershgorin.lean:65]:
```suggestion
  suffices ∃ k, 0 ∈ Metric.closedBall (A k k) (∑ j in Finset.univ.erase k, ‖A k j‖) by
    refine this.imp (fun a h ↦ by rwa [mem_closedBall_iff_norm', sub_zero] at h)
  refine eigenvalue_mem_ball ?_
  rw [Module.End.HasEigenvalue, Module.End.eigenspace_zero]
  exact (LinearMap.bot_lt_ker_of_det_eq_zero (by rwa [LinearMap.det_toLin'])).ne'
```

a little golf, not obligatory

File: Mathlib/LinearAlgebra/Matrix/Gershgorin.lean [hunk 5]
```diff
@@ -0,0 +1,70 @@
...
+-/
+import Mathlib.Analysis.Normed.Field.Basic
+import Mathlib.LinearAlgebra.Eigenspace.Basic
+import Mathlib.LinearAlgebra.Determinant
+
+/-!
+# Gershgorin's circle theorem
+
+This file gives the proof of Gershgorin's circle theorem `Matrix.toLinearEquiv` on the eigenvalue
+of matrices and some applications
```
Comment (ericrbg) [inline Mathlib/LinearAlgebra/Matrix/Gershgorin.lean:14]:
```suggestion
This file gives the proof of Gershgorin's circle theorem `eigenvalue_mem_ball` on the eigenvalues
of matrices and some applications.
```

**Review by ericrbg — APPROVED** [review]
small random stuff otherwise lgtm!

File: Mathlib/LinearAlgebra/Matrix/ToLinearEquiv.lean (hunk 3 above)
Comment (ericrbg) [reply Mathlib/LinearAlgebra/Matrix/ToLinearEquiv.lean]: Is this provable fully from your statement? I don't think there's any reason to delete this if it's not strictly stronger

File: Mathlib/LinearAlgebra/Matrix/Gershgorin.lean [hunk 6]
```diff
@@ -0,0 +1,74 @@
...
+## Reference
+
+* https://en.wikipedia.org/wiki/Gershgorin_circle_theorem
+-/
+
+open BigOperators
+
+variable {K n : Type*} [NormedField K] [Fintype n] [DecidableEq n] {A : Matrix n n K}
+
+/-- Gershgorin_circle_theorem: for any eigenvalue `μ` of a square matrix `A`, there exists an
```
Comment (jcommelin) [inline Mathlib/LinearAlgebra/Matrix/Gershgorin.lean:25]:
```suggestion
/-- **Gershgorin's circle theorem**: for any eigenvalue `μ` of a square matrix `A`, there exists an
```

**Review by jcommelin — COMMENTED** [review]
bors d+
